US05773449
4-Hydroxy-1,7-phenanthroline
A mixture of 3-(4-methoxycarbonyl-1-piperazinyl)aniline (0.75 g, 3.2 mmol), ethyl orthoformate (0.50 g, 3.4 mmol), Meldrum's acid (0.48 g, 3.4 mmol) was stirred at 110° C. for 1.5 hours. The reaction mixture was added with diphenyl ether (10 ml) and stirred at 240° C. for 1.5 hours. After allowing to cool, n-hexane was added to the mixture. The resulting precipitates were collected by filtration and purified by column chromatography (Wako Gel™ C-200, methylene chloride methanol=10 : 1) to obtain the titled compound (320 mg, 35%).

reactant | 3-(4-methoxycarbonyl-1-piperazinyl)aniline | 3.2 mmol, 0.75 g | COC(=O)N1CCN(CC1)C=1C=C(N)C=CC1 | C12H17N3O2
reactant | ethyl orthoformate | 3.4 mmol, 0.50 g | C(OCC)([O-])[O-]
reactant | Meldrum's acid | 3.4 mmol, 0.48 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | diphenyl ether | 10 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | n-hexane | CCCCCC | C6H14
product | 4-Hydroxy-1,7-phenanthroline | 320 mg, 35% | OC1=CC=NC2=C3C=CC=NC3=CC=C12 | C12H8N2O
